US09376420B2
Step 1: 3-(5-bromo-pyridin-2-yl)-acrylic acid
5-Bromo-pyridin-2-carbaldehyde (2.0 g, 10.6 mmol), malonic acid (2.5 g, 24.2 mmol), and piperidine (0.9 mL, 9.0 mmol) were added to pyridine (6.5 mL). The reaction mixture was stirred at 100° C. for 1 hour and then concentrated under reduced pressure. Distilled water was added to the reaction mixture, which was then filtered. The resulting solid was dried under reduced pressure to give 1.3 g of the titled compound as a brown solid.

reactant | 5-Bromo-pyridin-2-carbaldehyde | 10.6 mmol, 2.0 g | BrC=1C=CC(=NC1)C=O | C6H4BrNO
reactant | malonic acid | 24.2 mmol, 2.5 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 9.0 mmol, 0.9 mL | N1CCCCC1 | C5H11N
solvent | pyridine | 6.5 mL | N1=CC=CC=C1 | C5H5N
product | 3-(5-bromo-pyridin-2-yl)-acrylic acid | 1.3 g | BrC=1C=CC(=NC1)C=CC(=O)O | C8H6BrNO2
